US07518021B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (67 mg, 0.1 mmol) and sodium carbonate (640 mg, 6 mmol) in toluene (5 ml) were added 1,5-dihydroxynaphthalene (5 mmol) and vinyl acetate (2.15 g, 25 mmol), followed by stirring at 100° C. in an atmosphere of argon gas for 6 hours. The reaction mixture was analyzed by gas chromatography to find that 1-hydroxy-5-vinyloxynaphthalene and 1,5-bis(vinyloxy)naphthalene were formed in yields of 15% and 13%, respectively, with a conversion from 1,5-dihydroxynaphthalene of 30%.

reactant | sodium carbonate | 6 mmol, 640 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,5-dihydroxynaphthalene | 5 mmol | OC1=CC=CC2=C(C=CC=C12)O | C10H8O2
reactant | vinyl acetate | 25 mmol, 2.15 g | C(C)(=O)OC=C | C4H6O2
reactant | 1-hydroxy-5-vinyloxynaphthalene | OC1=CC=CC2=C(C=CC=C12)OC=C | C12H10O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1,5-bis(vinyloxy)naphthalene | C(=C)OC1=CC=CC2=C(C=CC=C12)OC=C | C14H12O2
